US07186724B2
1-Methyl-3-piperazin-1-yl-1H-thieno[3,2-c]pyrazole.
To a solution of a mixture of 3-(4-Benzyl-piperazin-1-yl)-1-methyl-1H-thieno[3,2-c]pyrazole and the 2-methyl analog (189.0 g, 0.60 mol) is dissolved in DCM (1.25 L) is added 1-chloroethylchloroformate (78.6 mL, 0.72 mol). The solution is heated at reflux for 1 hour when the mixture is cooled and the solvent is removed by evaporation. The residue is taken up in methanol (1 L) and heated at reflux for 30 minutes. After cooling, the solution is treated with 1 N HCl in ether (200 mL) and an additional 1 L of ether to afford the precipitation of the product. The solid is collected via filtration and washed with cold ether. The solid is recrystallized from methanol (1 L) and the HCl salt is collected by filtration, washed with ether and dried under vacuum yielding 123.04 g (80%) of the desired product as an 80:1 mixture of regioisomers in favor of the desired regioisomer as seen by NMR.

reactant | 3-(4-Benzyl-piperazin-1-yl)-1-methyl-1H-thieno[3,2-c]pyrazole | C(C1=CC=CC=C1)N1CCN(CC1)C=1C2=C(N(N1)C)C=CS2 | C17H20N4S
reactant | 1-chloroethylchloroformate | 0.72 mol, 78.6 mL | ClC(C)OC(=O)Cl | C3H4Cl2O2
solvent | DCM | 1.25 L | C(Cl)Cl | CH2Cl2
product | 1-Methyl-3-piperazin-1-yl-1H-thieno[3,2-c]pyrazole | 123.04 g, 80% | CN1N=C(C2=C1C=CS2)N2CCNCC2 | C10H14N4S
